US07776857B2
A mixture of (7-methoxyquinolin-4-yl)(4-nitrophenyl)methanol (220 mg, 0.709 mmol) and manganese dioxide (247 mg, 2.84 mmol) in CHCl3(20 mL) was heated to 50° C. After 3 hrs, the mixture was cooled to RT and filtered over a silica plug to afford (7-methoxyquinolin-4-yl)(4-nitrophenyl)methanone as a yellow solid that was advanced without further purification. MS: M+H+=309.1.

reactant | (7-methoxyquinolin-4-yl)(4-nitrophenyl)methanol | 0.709 mmol, 220 mg | COC1=CC=C2C(=CC=NC2=C1)C(O)C1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O4
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 2.84 mmol, 247 mg | [O-2].[O-2].[Mn+4]
product | (7-methoxyquinolin-4-yl)(4-nitrophenyl)methanone | COC1=CC=C2C(=CC=NC2=C1)C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C17H12N2O4
